US07504408B2
6-methoxy-N-[5-chloro-7-(3-methoxyprop-1-ynyl)-1,3-benzodioxol-4-yl]-7-[3-(4-methylpiperazin-1-yl)propoxy]quinazolin-4-amine
A solution of sodium bis(trimethylsilyl)amide (1.33 ml) in tetrahydrofuran (1.0 Mol/L, 1.33 mmol) was added to a solution of 4-chloro-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline (0.212 g) and 5-chloro-7-(3-methoxyprop-1-ynyl)-1,3-benzodioxol-4-amine (0.16 g) in DMF (3 ml) cooled to 0° C. under a nitrogen atmosphere. The reaction mixture was stirred for 1.5 hours. The reaction mixture was diluted with a saturated solution of ammonium chloride and extracted twice with ethyl acetate. The organic phases were combined and dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica using increasingly polar mixtures of dichloromethane and methanol as the eluent to give the title compound as a light brown solid (0.22 g). NMR Spectrum: 1.93 (m, 2H), 2.12 (s, 3H), 2.22-2.50 (m, 10H), 3.36 (s, 3H), 3.93 (s, 3H), 4.17 (t, 2H), 4.35 (s, 2H), 6.14 (s, 2H), 7.14 (s, 1H), 7.15 (s, 1H), 7.80 (s, 1H), 8.29 (s, 1H), 9.49 (s, 1H); Mass Spectrum: M+H+ 554, M+H− 552.

reactant | sodium bis(trimethylsilyl)amide | 1.33 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 1.33 mmol, 1.0 Mol/L | O1CCCC1 | C4H8O
reactant | 4-chloro-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline | 0.212 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C17H23ClN4O2
reactant | 5-chloro-7-(3-methoxyprop-1-ynyl)-1,3-benzodioxol-4-amine | 0.16 g | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)N | C11H10ClNO3
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 6-methoxy-N-[5-chloro-7-(3-methoxyprop-1-ynyl)-1,3-benzodioxol-4-yl]-7-[3-(4-methylpiperazin-1-yl)propoxy]quinazolin-4-amine | 0.22 g | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCN(CC1)C)NC1=C(C=C(C=2OCOC21)C#CCOC)Cl | C28H32ClN5O5
